US04242515
6-(3-Methoxyphenyl)-3-methyl-1,2,4-triazolo[4,3-a]pyridine
In the manner described in Example 37, a mixture of 2-hydrazino-5-(3-methoxyphenyl)pyridine and ethyl orthoacetate provides the product of the Example.

reactant | 2-hydrazino-5-(3-methoxyphenyl)pyridine | N(N)C1=NC=C(C=C1)C1=CC(=CC=C1)OC | C12H13N3O
reactant | ethyl orthoacetate | C(C)(OCC)([O-])[O-]
product | 6-(3-Methoxyphenyl)-3-methyl-1,2,4-triazolo[4,3-a]pyridine | COC=1C=C(C=CC1)C=1C=CC=2N(C1)C(=NN2)C | C14H13N3O
